US04268591
(a) N-(4-Chloro-3-nitro-benzoyl)-N-n-hexadecyl-2-nitroaniline
A solution of 33 g of 4-chloro-3-nitro-benzoyl chloride in 100 ml of benzene is added dropwise in the course of one hour to a solution, which has been heated to the reflux temperature, of 54.3 g of N-n-hexadecyl-2-nitroaniline in 80 ml of benzene. After a further two hours, the reaction has ended. The reaction solution is poured into 600 ml of hexane and the mixture is left to stand overnight. The resulting crystals are filtered off with suction and washed with hexane. This gives 48 g of the compound with a melting point of 83° to 85° C.

reactant | 4-chloro-3-nitro-benzoyl chloride | 33 g | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | N-n-hexadecyl-2-nitroaniline | 54.3 g | C(CCCCCCCCCCCCCCC)NC1=C(C=CC=C1)[N+](=O)[O-] | C22H38N2O2
reactant | hexane | 600 ml | CCCCCC | C6H14
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | N-(4-Chloro-3-nitro-benzoyl)-N-n-hexadecyl-2-nitroaniline | ClC1=C(C=C(C(=O)N(C2=C(C=CC=C2)[N+](=O)[O-])CCCCCCCCCCCCCCCC)C=C1)[N+](=O)[O-] | C29H40ClN3O5
